US06987116B2
A mixture of 2,4-dichloro-5-methoxyaniline (336 mg, 1.75 mmol) and 60% sodium hydride (70 mg, 1.75 mmol) in 10 mL of tetrahydrofuran is heated at reflux for 30 minutes. The solution is cooled and 7-chlorothieno[3,2-b]pyridine-6-carbonitrile (200 mg, 1.02 mmol) is added. The reaction mixture is heated at reflux for 3.5 hours then allowed to stir at room temperature overnight. The resultant black solution is partitioned between ethyl acetate and water. The organic layer is washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 1:1 ethyl acetate:hexane. The fractions containing product are combined and concentrated. Diethyl ether is added and the insoluble material collected by filtration to provide 131 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile as a tan solid, mp 216-220° C.; 1H NMR (DMSO-d6) δ 3.85 (s, 3H), 7.40 (3, 1H), 7.46 (d, J=5 Hz, 1H), 7.76 (s, 1H), 8.11 (d, J=5 Hz, 1H), 8.61 (s, 1H), 9.71 (s, 1H); MS 350.2 (M+H)+.

reactant | 2,4-dichloro-5-methoxyaniline | 1.75 mmol, 336 mg | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
reactant | sodium hydride | 1.75 mmol, 70 mg | [H-].[Na+]
reactant | 7-chlorothieno[3,2-b]pyridine-6-carbonitrile | 1.02 mmol, 200 mg | ClC1=C2C(=NC=C1C#N)C=CS2 | C8H3ClN2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]thieno[3,2-b]pyridine-6-carbonitrile | 131 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=CS2 | C15H9Cl2N3OS
